Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest Pain, Dyspnea 
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
 Mrs ___ is a pleasant ___ yo F with hx breast ca s/p 
lumpectomy, chemotherapy and radiotherapy, PUD, recent hip fx 
chronic low back pain, lumbar compression fractures s/p 
kyphoplasty, and newly diagnosed metastatic lung cancer who 
presents with CP and SOB.  Pt had a hip fracture in ___ 
imaging during that hospitalization at ___ showed liver lesions, 
pt had biopsy on ___ which showed metastatic poorly 
differentiated carcinoma with tumor markers diagnostic for a SCC 
of the lung.  She had plans to follow up with Dr ___ 
week in regards to her lung cancer, but presented to the ED 
today with two days of pleuritic chest and upper back pain after 
walking excessively with her walker earlier this week. Patient 
was feeling wel on ___, family visited from out of state, 
excess activity and then patient developed pain which is now 
worsening. Pain is worse with inspiring, pt states it is 
constant ___ pain however increases intermittently to ___.  
She states she only feels SOB because she has difficulty taking 
deep inspirations ___ pain.  She has been taking Tylenol ___ 
TID without improvement. No fever, shortness of breath, cough, 
dyspnea. Denies n/v/d/hematuria/blood in stool.  Last BM was on 
___.

In the ED, initial vitals were: 98.5 87 116/68 18 100% RA.  Labs 
were notable only for BNP of 1326.  CXR showed mild pulmonary 
vascular congestion, likely post-radiation changes in the left 
lateral mid lung field.  CT showed no PE, multiple metastatic 
lesions throughout the liver, increased in size from ___, 
interstitial lung disease. 

On arrival to the floor, pt has no complaints.  She states she 
attributed this to her increased activity and use of walker on 
___, however when her ___ saw her later in the week they were 
concerned and recommend that she present tot he ED.  She current 
h as no pain at rest but pain increases with inspiration.  she 
ahs never had this pain before.  

Review of systems:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias. 10 
pt ros otherwise negative.

 
Past Medical History:
breast ca s/p lumpectomy chemotherapy and radiotherapy
PUD
chronic low back pain
lumbar compression fractures s/p kyphoplasty
metastatic lung cancer 

surgical hx:
L hip surgery
R shoulder surger
L2, L4, L5 kyphoplasty
 
Social History:
___
Family History:
no known
 
Physical Exam:
ADMISSION EXAM:
===================
Vitals: 97.7 PO 106 / 68 81 16 100 4LNC 
Constitutional: Alert, oriented, no acute distress
EYES: Sclera anicteric,  EOMI, PERRL
ENMT: MMM, oropharynx clear, normal hearing, normal nares
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Respiratory: Diffuse crackles, no wheezing/rhonchi
GI: Soft, mildly tender in lower quadrants, non-distended, bowel 
sounds present, no organomegaly, no rebound or guarding
GU: No foley
EXT: Warm, well perfused, no CCE
NEURO: aaox3 CNII-XII and strength grossly intact 
SKIN: no rashes or lesions
MSK: pain to palpation of chest where ribs meet sternum

DISCHARGE EXAM:
===================
Vitals: Reviewed in eFlowsheet and stable. Afebrile. Desaturated 
to high ___ with ambulation, which quickly normalized 
with rest.
General: Well appearing female in no acute distress
Eyes: Sclera anicteric, no conjunctival injection
CV: RRR, normal S1/S2, no m/r/g
Chest: Severely tender to palpation over the stenum
Back: Tenderness to palpation over the upper paraspinal muscles 
but no spinous process tenderness
Resp: Lungs CTA bilaterally, non-labored breathing, symmetric 
chest expansion
Abd: Soft, non-tender in all quadrants, non-distended, no 
rebound or guarding
EXT: WWP, no ___ edema
PSYCH: Pleasant. Normal mood and affect.
 
Pertinent Results:
ADMISSION LABS:
====================
___ 06:53PM   K+-4.7
___ 06:40PM   GLUCOSE-107* UREA N-9 CREAT-0.5 SODIUM-138 
POTASSIUM-5.1 CHLORIDE-97 TOTAL CO2-30 ANION GAP-11
___ 05:55PM   K+-7.5*
___ 04:14PM   GLUCOSE-104* UREA N-9 CREAT-0.5 SODIUM-135 
POTASSIUM-7.4* CHLORIDE-95* TOTAL CO2-24 ANION GAP-16
___ 04:14PM   estGFR-Using this
___ 04:14PM   cTropnT-<0.01 proBNP-1326*
___ 04:14PM   CALCIUM-9.8 PHOSPHATE-4.3 MAGNESIUM-1.5*
___ 04:14PM   WBC-7.5 RBC-3.49* HGB-11.0* HCT-34.7 MCV-99* 
MCH-31.5 MCHC-31.7* RDW-12.8 RDWSD-45.6
___ 04:14PM   NEUTS-61.8 ___ MONOS-7.5 EOS-1.1 
BASOS-0.9 IM ___ AbsNeut-4.63 AbsLymp-2.12 AbsMono-0.56 
AbsEos-0.08 AbsBaso-0.07

DISCHARGE LABS:
====================
___ 07:25AM BLOOD WBC-6.1 RBC-3.19* Hgb-9.9* Hct-32.4* 
MCV-102* MCH-31.0 MCHC-30.6* RDW-12.4 RDWSD-46.3 Plt ___
___ 07:25AM BLOOD Glucose-96 UreaN-10 Creat-0.4 Na-141 
K-4.6 Cl-99 HCO3-30 AnGap-12
___ 06:40PM BLOOD CK-MB-<1 cTropnT-<0.01
___ 07:25AM BLOOD CK-MB-<1 cTropnT-<0.01
___ 07:25AM BLOOD Calcium-9.9 Phos-4.3 Mg-2.0

STUDIES:
====================
CTA CHEST ___
1. No evidence of pulmonary embolism or aortic abnormality.
2. Re-demonstration of multiple hypoattenuating metastatic 
lesions throughout the liver, some of which are bigger from ___.
3. Diffuse lung interstitial thickening associated with 
peripheral fibrosis is suggestive of interstitial lung disease.
4. Rib deformities on the left are likely healed fractures.
5. Sclerosis of the posterior aspect of the T7 vertebral body, 
uncertain if this is degenerative or due to metastatic disease. 
Consider bone scan.

CXR ___
1. Mild pulmonary vascular congestion. 
2. Probable post radiation changes in the left lateral mid lung 
field. 
3. Bibasilar atelectasis. 

ECG ___: Normal sinus rhythm without evidence of ischemia.
 
Brief Hospital Course:
Mrs ___ is a pleasant ___ yo F with remote hx breast 
cancer, new dx of metastatic liver lesions, lung primary, who 
presents with CP.

# CP: Pain started after increased activity on ___. EKG and 
CT chest are reassuring. Although her BNP is mildly elevated, 
imaging showed only mild vascular congestion and exam not 
consistent with CHF, will not give additional diuresis. Exam is 
consistent with costochondritis. Pt states pain is currently 
reasonably well controlled. Her oxygenation was in the low ___ 
to high ___ with exertion, likely a combination of splinting and 
her underlying lung disease. She was able to ambulate and 
maintain O2 saturation > 88%. Her splinting should improve as 
her pain resolves.
-Ibuprofen 600 mg Q8H PRN and acetaminophen for pain control.
-I counseled the patient and her husband on safe use of 
ibuprofen, including taking with food, not more than prescribed, 
and warning signs to seek care.

Otherwise no changes were made to her home medications.

TRANSITIONAL ISSUES:
[ ] F/U with PCP to ensure resolution of symptoms
[ ] Ambulatory O2 saturation at PCP follow up

**Patient was seen and examined today and is stable for 
discharge. Greater than 30 minutes were spent in discharge 
planning and coordination.**
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. DULoxetine 60 mg PO DAILY 
3. melatonin 5 mg oral DAILY 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. Magnesium Citrate 400 mL PO ONCE 
6. Vitamin D 1000 UNIT PO DAILY 
7. Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
Take with food.  
2.  Acetaminophen 1000 mg PO Q8H  
3.  Cyanocobalamin 1000 mcg PO DAILY  
4.  DULoxetine 60 mg PO DAILY  
5.  Magnesium Citrate 400 mL PO ONCE  
6.  melatonin 5 mg oral DAILY  
7.  Omeprazole 20 mg PO DAILY  
8.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
costochondritis
chest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for chest and back pain. We think your pain is 
from a musculoskeletal injury as a result of exerting yourself. 
We did blood work, an EKG, and a CT scan of the chest to make 
sure there was no serious damage or problem with your heart or 
your lungs to cause the pain. We also did not see any acute bone 
fractures.

You can take ibuprofen 600 mg up to every 8 hours with food for 
your pain. You should not take this for more than 1 week without 
talking with your primary care doctor. If you notice abdominal 
pain, or evidence of blood in your stool (either red or black), 
you should stop taking ibuprofen and call your doctor. You can 
also take acetaminophen for pain, no more than prescribed on the 
bottle (a maximum of 3 gram per 24 hours). It is important that 
you continue to take nice deep breaths and rest if you get out 
of breath. If your breathing worsens, you should call your 
doctor or return to the hospital.

No other changes were made to your home medications.

It was a pleasure taking care of you.

Sincerely,

Your ___ Care Team
 
Followup Instructions:
___